US08217064B2
A mixture of ethyl-1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-cyclo butane carboxylate (400 mg, 0.83 mmol) and lithium hydroxide monohydrate (0.2 g, 8.3 mmol) in a MeOH/THF/Water solvent mixture (10 ml/10 ml/10 ml) was stirred for 3 h at room temperature. Upon completion of the reaction, the volatiles were removed under reduced pressure. The residue was diluted with water, acidified with 5% HCl solution and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by column chromatography to give 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-cyclobutane carboxylic acid in 88% yield (0.21 g). 1H-NMR (CDCl3, 400 MHz): 7.72 (d, 2H); 7.65 (d, 2H), 7.39 (s, 1H); 7.26 (s, 1H); 3.98 (q, 2H); 2.86 (m, 2H); 2.52 (m, 2H); 2.16 (m, 1H), 1.91 (m, 1H).

reactant | ethyl-1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-cyclo butane carboxylate | 0.83 mmol, 400 mg | C(C)OC(=O)C1(CCC1)C=1C=C(C(=C(C1)Cl)OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C22H19ClF6O3
reactant | lithium hydroxide monohydrate | 8.3 mmol, 0.2 g | O.[OH-].[Li+]
solvent | MeOH THF Water | CO.C1CCOC1.O
product | 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-cyclobutane carboxylic acid | 88% yield | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CCC1)C(=O)O | C20H15ClF6O3
